### ISSUE TITLE
Add a `tendsto` tactic for simple limit goals

### ISSUE THREAD

**Issue by paulcadman** [mathlib-initiative/TaskList#66]
Add a tactic for simple `Teststo` goals.

Example:

```lean
import Mathlib.Tactic
import Mathlib.Topology.Instances.Real.Lemmas
import Mathlib.Topology.Algebra.Order.Field
import Mathlib.Order.Filter.AtTopBot.Basic

open Filter

-- instead of writing this
example : Tendsto (fun x : ℝ => x + 1) atTop atTop := by
  exact tendsto_atTop_add_const_right atTop (1 : ℝ) tendsto_id

-- You could write
example : Tendsto (fun x : ℝ => x + 1) atTop atTop := by
  tendsto
```

Zulip discussion: [`Tendsto`](https://leanprover.zulipchat.com/#narrow/stream/113488-general/topic/.22Missing.20Tactics.22.20list/near/420354653).

Spun out from: https://github.com/leanprover-community/mathlib4/issues/10361

**Comment by mcdoll** [comment]
Just fyi: Tomas Skrivan has done some work on making `fun_prop` handle metavariables, which would include a `tendsto` tactic as a special case.
